US05117057
Preparation of N'-t-butyl-N-(2-hydroxymethylbenzoyl)-N'-benzoylhydrazine
0.7 g of N'-t-butyl-N-(2-hydroxymethylbenzoyl)-hydrazine and 1.1 g benzoyl chloride are combined in 10 ml of 5% NaOH and stirred at room temperature for 1.5 hours. The solids are filtered off, washed with water, then ether, to afford 0.6 g of white solid N'-t-butyl-N-(2-(benzoyloxymethyl)benzoyl)-N'-benzoylhydrazine. m.p. 190°-191° C.

reactant | N'-t-butyl-N-(2-hydroxymethylbenzoyl)-hydrazine | 0.7 g | C(C)(C)(C)NNC(C1=C(C=CC=C1)CO)=O | C12H18N2O2
reactant | benzoyl chloride | 1.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | NaOH | 10 ml | [OH-].[Na+]
product | N'-t-butyl-N-(2-hydroxymethylbenzoyl)-N'-benzoylhydrazine | 0.6 g | C(C)(C)(C)N(NC(C1=C(C=CC=C1)CO)=O)C(C1=CC=CC=C1)=O | C19H22N2O3
